US04152441
At a temperature of -60° to -70° C. and under a nitrogen atmosphere, 25 ml. (0.04 mol) of 15% butyl lithium in n-hexane were added to a solution of 3.2 g (0.034 mol) of 1-vinylimidazole and 4.6 g (0.04 mol) of N,N,N',N'-tetramethylethylenediamine in 75 ml. of anhydrous tetrahydrofuran. The mixture was stirred for 2 hours and then 8.5 g (0.034 mol) of 4,4'-dichlorobenzophenone, dissolved in 75 ml. of anhydrous tetrahydrofuran were added dropwise under the same conditions. The reaction mixture was stirred for 2 hours at -60° to -70° C. and kept standing overnight at room temperature under the nitrogen atmosphere. Then 25 ml. of water and a small amount of acetic acid were added to the reaction mixture and the liquid was distilled off. Water was added to the residue and the solid matter was filtered off. The product was crystallised from a mixture of isopropyl alcohol, dimethylformamide and petroleum ether (boiling range 60°-80° C.). α,α-Bis(p-chlorophenyl)-1-vinylimidazole-2-methanol was obtained. Melting point 173.5°-174° C.

reactant | butyl lithium | 0.04 mol | C(CCC)[Li]
reactant | 1-vinylimidazole | 0.034 mol, 3.2 g | C(=C)N1C=NC=C1 | C5H6N2
reactant | N,N,N',N'-tetramethylethylenediamine | 0.04 mol, 4.6 g | CN(CCN(C)C)C | C6H16N2
reactant | 4,4'-dichlorobenzophenone | 0.034 mol, 8.5 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
solvent | n-hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α,α-Bis(p-chlorophenyl)-1-vinylimidazole-2-methanol | ClC1=CC=C(C=C1)C(O)(C=1N(C=CN1)C=C)C1=CC=C(C=C1)Cl | C18H14Cl2N2O
